US06479480B1
To a solution of 7.5 g (24.7 mmol) of (2-phenyl-1H-indol-3-yl)piperidin-3-ylmethanone in anhydrous tetrahydrofuran (100 ml) under an atmosphere of nitrogen was added cautiously over 5 min a solution of lithium aluminium hydride (50 ml of a 1M solution in tetrahydrofuran, 50 mmol) at 0° C. The mixture was heated at reflux for 3 hr, after which it was cooled and quenched by the careful addition of water (2 ml), 4N NaOH (2 ml), and water (6 ml). The mixture was stirred for 10 min then filtered through hyflo and evaporated in vacuo to afford 5.6 g (19.3 mmol; 78%) of 2-phenyl-3-(piperidin-3-ylmethyl)-1H-indole as a clear oil. δH (360 MHz; CDCl3) 1.00-1.13 (1H, m, aliphatic), 1.28-1.40 (1H, m, aliphatic), 1.44-1.62 (2H, m, aliphatics), 1.74-1.86 (1H, m, aliphatic), 2.27 (1H, t, J 10.3, aliphatic), 2.44-2.52 (1H, m, aliphatic), 2.75 (2H, dd, J 7.2 and 3.3, aliphatics), 2.91-3.03 (2H, m, aliphatics), 7.12 (1H, t, J 7.9 and 7.1, indole H5), 7.19 (1H, t, J 7.9 and 7.0, indole H6), 7.32-7.39 (2H, m, aromatics), 7.42-7.50 (2H, m, aromatics), 7.54 (2H, dd, J 8.5 and 1.4, aromatics), 7.62 (1H, d, J 7.1, indole H4), 8.10 (1H, br s, NH); m/z (ES+) 291 (M++H, 100%).

reactant | (2-phenyl-1H-indol-3-yl)piperidin-3-ylmethanone | 24.7 mmol, 7.5 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1C(=O)C1CNCCC1 | C20H20N2O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-phenyl-3-(piperidin-3-ylmethyl)-1H-indole | 19.3 mmol, 5.6 g, 78% | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1CC1CNCCC1 | C20H22N2
